US04122201
Following the procedure of Example 1, acetonedicarboxylic acid (7.3 g., 0.05 m.) is added slowly to 46.6 g. (0.25 m.) of n-valeric anhydride with 1 ml. of concentrated sulfuric acid at 10°-20° C. The resulting mixture is heated on a steam bath at 90°-95° C. for 1 hour and then poured into ice-water. The filtered solid is recrystallized from methanol to give 3,5-bis(valeryl)-4,6-dihydroxy-2H-pyran-2-one, m.p. 84°-85° C.

reactant | acetonedicarboxylic acid | 7.3 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | n-valeric anhydride | CCCCC(=O)OC(=O)CCCC | C10H18O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3,5-bis(valeryl)-4,6-dihydroxy-2H-pyran-2-one | C(CCCC)(=O)C=1C(OC(=C(C1O)C(CCCC)=O)O)=O | C15H20O6
